US04971982
In an analogous manner to that described in the first paragraph of Example 7, from 3,4-dihydro-2,2-dimethyl-4-(5-methyl-2-pyridyl)-2H-1-benzopyran-6-carbonitrile there was obtained 2-(6-cyano-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-4-yl)-5-methylpyridine N-oxide of melting point 151°-153° C. (from ethyl acetate and cyclohexane).

reactant | 3,4-dihydro-2,2-dimethyl-4-(5-methyl-2-pyridyl)-2H-1-benzopyran-6-carbonitrile | CC1(OC2=C(C(C1)C1=NC=C(C=C1)C)C=C(C=C2)C#N)C | C18H18N2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | cyclohexane | C1CCCCC1 | C6H12
product | 2-(6-cyano-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-4-yl)-5-methylpyridine N-oxide | C(#N)C=1C=CC2=C(C(CC(O2)(C)C)C2=[N+](C=C(C=C2)C)[O-])C1 | C18H18N2O2
